US09260408B2
N-((5-Bromopyridin-3-yl)methyl)-3-chloro-N-methylpicolinamide
In analogy to the procedure described for the preparation of intermediate A-41, N-((5-bromopyridin-3-yl)methyl)-3-chloropicolinamide (intermediate A-56) was reacted with MeI in presence of NaH (60% in mineral oil) to give the title compound as a dark brown oil. MS: 340.2 and 342.2 (M+H+).

reactant | N-((5-bromopyridin-3-yl)methyl)-3-chloropicolinamide | BrC=1C=C(C=NC1)CNC(C1=NC=CC=C1Cl)=O | C12H9BrClN3O
reactant | MeI | CI | CH3I
reactant | NaH | [H-].[Na+]
product | N-((5-Bromopyridin-3-yl)methyl)-3-chloro-N-methylpicolinamide | BrC=1C=C(C=NC1)CN(C(C1=NC=CC=C1Cl)=O)C | C13H11BrClN3O
